Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Seizure
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ male with history of seizure disorder on Keppra and
Depakote and BPH who presents as a transfer from ___ with 2
seizures and fever.

Patient states he awoke very early on ___ morning and his
stomach was upset, so he went to the bathroom and vomited once.
His memory of subsequent events is unclear. Per review of
___ records, Mr. ___ was found after an unwitnessed
fall in his kitchen around 05:00 by his wife, who did not note 
an
ongoing seizure at the time. He was subsequently noted to have
returned to his baseline mental status, but was referred to the
___ for further evaluation. 

At ___, he was noted to have an episode of "gaze deviation
of repetitive facial movements" during which he remained
responsive, but which quickly "generalized into a generalized
tonic-clonic with head deviation and increased tone" of unclear
duration that ceased with 2 mg IV lorazepam. He was also noted 
to
be febrile to 101.1°F. Mr. ___ himself does not recall
these episodes, but does recall being informed of them. Patient
was found to have therapeutic Depakote levels (levels 43), while
Keppra levels were pending. UA was negative. Chest x-ray showed
bilateral interstitial pulmonary infiltrates. Head CT was 
similar
to prior. Patient received Tylenol, ibuprofen, and 500 cc of
fluid. Patient was transferred here for neurology evaluation and
EEG.

In the ED, patient has no complaints. He states he feels well. 
He
seems mildly confused (knows it is ___, states it is ___,
unsure of specific details of the day). He denies headache. He
has full range of motion of the neck, there is no meningismus, 
or
neck stiffness. Neuro exam is nonfocal. On repeat CXR patient 
was
found to have coarse interstitial opacities are seen in the 
lungs
diffusely, suggestive of a chronic interstitial abnormality with
patchy opacities seen in the lung bases. Patient was initiated 
on
ceftriaxone and azithromycin 

Per neurology note, on discussion with Mr. ___ daughter,
he typically has breakthrough seizures every ___ months,
described as behavioral arrest followed by a generalized seizure
lasting several seconds. Mr. ___ prior seizure was 3
months prior to presentation, which occurred in a cluster in the
setting of a febrile illness. She notes that Mr. ___ does
occasionally miss some doses of his medications, though this has
improved with placing his medications in a pill box.

Neurology thought that patient's seizure is iso febrile illness
and subtherapeutic valporic acid levels. they recommended a
loading dose of 10 mg/Kg once and check post dose levels after 2
hours. They did not think there is a need for EEG at this point. 


On review of systems, Mr. ___ had reported gastric upset
earlier this morning, and had noted difficulty sleeping
overnight; otherwise unrevealing.

-Initial VS: T: 99.8 | HR: 82 | BP: 117/72 | RR: 17 | PaO2: 97%
RA  
-Labs notable for: 
-CBC: WBC: 7.2 RBC: 3.80* Hgb: 12.1* Hct: 35.7* Plt Ct: 94* 
-Chem: Glucose: 108* UreaN: 13 Creat: 0.9 Na: 137 K: 5.2 Cl: 105
HCO3: 22 AnGap: 10 
-LFTs: ALT: 13 AST: 22 AlkPhos: 77 TotBili: 0.6 
-Trop: cTropnT: <0.01 
-BLOOD ASA: NEG Ethanol: NEG Acetmnp: NEG Tricycl: NEG 
-BLOOD Valproa: 40* 
-UA: URINE Blood: NEG Nitrite: NEG Protein: 30* Glucose: NEG
Ketone: 10* Bilirub: NEG Urobiln: 2* pH: 8.0 Leuks: NEG URINE
RBC: 5* WBC: 3 Bacteri: NONE Yeast: NONE Epi: 0 

Urine and blood cultures are pending 
- Imaging notable for:
CXR: coarse interstitial opacities are seen in the lungs
diffusely, suggestive of a chronic interstitial abnormality with
patchy opacities seen in the lung bases. 
- Meds:  
Divalproex ER 1500 mg QHS
levetiracetam 1,000 mg BID
tamsulosin 0.4 mg daily
- Consults: Neurology 
- Vitals prior to transfer: 98.1 57 111/56 16 98% in RA
 
On arrival to the floor, patient confirms HPI. 

REVIEW OF SYSTEMS:  
A complete 10-point review of systems was performed and was
negative less otherwise noted in the HPI.
 
Past Medical History:
TBI from ___ ca. ___ c/b epilepsy
BPH
 
Social History:
___
Family History:
Non-contributory  
 
Physical Exam:
ADMISSION PHYSICAL:
====================
VS: T 98.4; HR 62; BP 121/70; RR 16; SAT 98% % O2 on RA  
GENERAL: Pleasant, lying in bed comfortably  
HEENT: AT; NC; PERRLA; No LAD   
CARDIAC: Regular rate and rhythm, no murmurs, rubs, or gallops  
LUNG: Appears in no respiratory distress, right lower to mid
crackles. No wheezes, or rhonchi  
ABD: Normal bowel sounds, soft, nontender, nondistended, no
hepatomegaly, no splenomegaly  
EXT: Warm, well perfused, no lower extremity edema  
PULSES: 2+ radial pulses, 2+ ___ pulses, 2+ DP pulses  
NEURO: Alert, oriented, CN II-XII intact, motor and sensory
function grossly intact  

DISCHARGE PHYSICAL EXAM:
========================
VS: ___ ___ Temp: 98.6 PO BP: 119/74 R Lying HR: 61 RR: 18
O2 sat: 98% O2 delivery: Ra  
GENERAL: Pleasant, lying in bed comfortably  
HEENT: AT; NC; PERRLA; No LAD   
CARDIAC: Regular rate and rhythm
LUNG: Appears in no respiratory distress, right lower to mid
crackles. No wheezes, or rhonchi  
ABD: Normal bowel sounds, soft, nontender, nondistended
EXT: Warm, well perfused, no lower extremity edema  
PULSES: 2+ radial pulses, 2+ ___ pulses, 2+ DP pulses  
NEURO: Alert, oriented, CN II-XII intact, motor and sensory
function grossly intact  
SKIN: No significant rashes  
 
Pertinent Results:
ADMISSION LABS:
===============
___ 07:30PM BLOOD WBC-7.2 RBC-3.80* Hgb-12.1* Hct-35.7* 
MCV-94 MCH-31.8 MCHC-33.9 RDW-13.4 RDWSD-46.1 Plt Ct-94*
___ 07:30PM BLOOD Neuts-75.9* Lymphs-16.4* Monos-7.0 
Eos-0.0* Baso-0.4 Im ___ AbsNeut-5.45 AbsLymp-1.18* 
AbsMono-0.50 AbsEos-0.00* AbsBaso-0.03
___ 07:30PM BLOOD Glucose-108* UreaN-13 Creat-0.9 Na-137 
K-5.2 Cl-105 HCO3-22 AnGap-10
___ 07:30PM BLOOD ALT-13 AST-22 AlkPhos-77 TotBili-0.6
___ 07:30PM BLOOD cTropnT-<0.01
___ 07:30PM BLOOD Valproa-40*
___ 07:30PM BLOOD Albumin-3.6 Calcium-8.8 Phos-3.2 Mg-1.9
___ 07:30PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 07:35PM BLOOD Lactate-1.2

IMAGING:
========
___ CXR PA Lateral: Patchy opacities in lung bases may 
reflect atelectasis, though aspiration is 
difficult to exclude in the correct clinical setting.  This 
appears 
superimposed on a background of mild chronic interstitial 
abnormality. 

MICRIOBIOLOGY:
================
___ 8:20 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

DISCHARGE LABS:
===============
___ 07:15AM BLOOD WBC-5.0 RBC-4.03* Hgb-12.6* Hct-38.2* 
MCV-95 MCH-31.3 MCHC-33.0 RDW-13.2 RDWSD-46.1 Plt Ct-88*
___ 07:15AM BLOOD Plt Ct-88*
___ 07:15AM BLOOD Glucose-84 UreaN-16 Creat-0.9 Na-140 
K-5.3 Cl-102 HCO3-27 AnGap-11
___ 05:13PM BLOOD Valproa-76
___ 07:30PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
 
Brief Hospital Course:
PATIENT SUMMARY FOR ADMISSION:
===============================
Mr. ___ ___ male with history of seizure 
disorder on Keppra and Depakote and BPH who presents as a 
transfer from ___ with 2 seizures and fever admitted for 
possible community acquired pneumonia. 

ACUTE ISSUES: 
============= 
# Fever 
# Possible CAP 
Patient presents with seizure iso febrile illness. Patient had 
one documented fever at ___. He is afebrile ever 
since transfer to the BI. Patient denies cough, SOB, chills or 
subjective fevers. CXR from ___ showed opacities in lung 
bases concerning for aspiration event. Patient was started on 
Ceftriaxone and azithro in the ED. DDx Viral illness Vs CAP. 
Since the patient does not have focal consolidation and 
levofloxacin might lower seizure threshold, decision was to 
continue patient on azithromycin for a total of 5 days. Patient 
evaluated by Speech and Swallow while inpatient and recommended 
outpatient video swallow to assess for the possibility 

# Seizure
# Epilepsy 
Per Mr. ___ daughter, his current presentation of a 
generalized seizure in the setting of a febrile illness appears 
to be in keeping with his baseline seizure frequency, with 
subsequent return to his baseline mental status. Note is also 
made of a subtherapeutic valproate level (40), potentially 
reflecting limitations in adherence though ultimately 
contributing to Mr. ___ breakthrough seizure. He received 
a valproate load of 500mg x1 and increased home to Depakote ER 
1000mg BID, Keppra dose continued at 1500mg BID. Notably these 
seizures could be in the setting of Outpatient follow-up with 
established neurologist is required to consider increasing 
valproate dose based on levels

CHRONIC ISSUES: 
=============== 
# BPH: Continued home tamsulosin 

# Thrombocytopenia: Stable based on review of ___ records, 
could be related to AEDs which should be discussed with 
outpatient ___. 

Transitional Issues:
[ ] Azithromycin course to be completed ___
[ ] Depakote ER dose increased to 1000mg BID prior to discharge.
[ ] At PCP visit patient ___ need CBC, LFT and Valproic Acid 
level checked and sent to outpatient Neurologist
[ ] Patient will require follow up with outpatient Neurologist 
to determine further titration of AEDs
[ ] Platelet count noted to be 88 on discharge in the setting of 
known thrombocytopenia, this should be discussed with ___ 
as thrombocytopenia can be secondary to anti-epileptic agents.
[ ] Patient evaluated by Speech and Swallow while inpatient and 
recommendation made for outpatient video swallow.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Divalproex (EXTended Release) 1500 mg PO QHS 
2. LevETIRAcetam 1000 mg PO BID 
3. Tamsulosin 0.4 mg PO QHS 

 
Discharge Medications:
1.  Azithromycin 250 mg PO DAILY Duration: 4 Doses 
RX *azithromycin 250 mg 1 tablet(s) by mouth daily Disp #*3 
Tablet Refills:*0 
2.  Divalproex (EXTended Release) 1000 mg PO BID 
RX *divalproex [Depakote ER] 500 mg 2 tablet(s) by mouth twice 
daily Disp #*120 Tablet Refills:*0 
3.  LevETIRAcetam 1500 mg PO BID  
4.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
===================
Community Acquired Pneumonia
Seizure Disorder

Secondary Diagnosis:
=====================
BPH

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

Thank you for choosing ___ as your site of care!

You were admitted because you had a seizure at home. We think 
this happened because of a possible lung infection. Our 
Neurology team evaluated you and we gave you an extra dose of 
seizure medications.

To treat your lung infection we gave you oral antibiotics. 
Because you did not have anymore seizures, you were felt safe to 
return home.

When you leave the hospital it is important that you follow up 
with your Neurologist and continue your antibiotic course.

It is very important you see your primary care provider and 
___ when you leave the hospital. You need to get labs 
checked at your next primary care provider ___.

We wish you the best!
 
Followup Instructions:
___